US04432979
4.7 g of bromine are added over a period of one minute to a solution of 4.5 g of 5-(4-pyrimidyl)-2(1H)-pyridone in 60 ml glacial acetic acid. The mixture is allowed to cool, stirred at RT for 1 hour and then poured into 100 ml of anhydrous ether and stirred for 30 minutes. The slurry is filtered and the filtered solid washed with ether and dried. The solid is suspended in 100 ml of H2O and the pH adjusted to about 6 with anhydrous K2CO3. The mixture is stirred for 15 minutes, filtered, the solid washed with H2O and briefly dried. The moist solid is added to 40 ml of 5% aqueous hydrochloric acid and the resultant mixture stirred for 30 minutes, diluted with an equal volume of isopropyl alcohol, stirred for an additional 10 minutes and filtered. The resulting solid is washed with isopropyl alcohol ether and dried, giving 3-bromo-5-(4-pyrimidyl)-2 (1H)-pyridone as a green powder, M.P. >250° C.

reactant | bromine | 4.7 g | BrBr | Br2
reactant | 5-(4-pyrimidyl)-2(1H)-pyridone | 4.5 g | N1=CN=C(C=C1)C=1C=CC(NC1)=O | C9H7N3O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-5-(4-pyrimidyl)-2 (1H)-pyridone | BrC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H6BrN3O
